US04687775
5-Chloro-2-[(imidazo[1,2-a]pyridin-8-ylmethyl)thio]-1H-benzimidazole
A solution of 20 g (0.12 mole) of 3-chloro-6-nitroaniline in 350 ml of methanol was hydrogenated over 5% palladium on carbon to yield 24.9 g of the corresponding diamino compound. Reaction of the diamino compound with potassium ethylxanthate using the method described in Example 10 yielded 19 g of 5-chloro-2-mercaptobenzimidazole, as confirmed by elemental analysis. The title compound (1.14 g) was prepared by the method of Example 6 using 8-hydroxymethylimidazo[1,2-a]pyridine as the hydrochloride salt (701 mg, 3.8 mmole) and using 701 mg (3.8 mmole) of 5-chloro-2-mercaptobenzimidazole instead of 2-mercapto-5-methoxybenzimidazole. Structure assignment was supported by the nmr and infrared spectra.

reactant | 8-hydroxymethylimidazo[1,2-a]pyridine | OCC=1C=2N(C=CC1)C=CN2 | C8H8N2O
reactant | 5-chloro-2-mercaptobenzimidazole | 3.8 mmole, 701 mg | ClC1=CC2=C(N=C(N2)S)C=C1 | C7H5ClN2S
product | 5-Chloro-2-[(imidazo[1,2-a]pyridin-8-ylmethyl)thio]-1H-benzimidazole | 1.14 g | ClC1=CC2=C(NC(=N2)SCC=2C=3N(C=CC2)C=CN3)C=C1 | C15H11ClN4S
